US05273999
A solution of 0.824 g (4 mmol) of 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one and 4 mL of dry pyridine in 20 mL of dichloromethane was stirred with cooling to 0° C. while 1.69 g (6 mmol) of trifluoromethanesulfonic anhydride was added dropwise. The solution was stirred at 0° C. for 1 hr and at room temperature for 2 hr. After being recooled, the reaction mixture was treated with an additional 0.5 mL (3 mmol) of trifluoromethanesulfonic anhydride and stirring was continued at 0° C. for 1 hr and at room temperature for 2 hr. The reaction mixture was stored at 0°-5° C. overnight before being poured into cold 3N HCl. Work-up with ether in the usual manner (the organic extract was additionally washed with saturated sodium bicarbonate solution) gave an oily product which was flash chromatographed on silica gel. Elution with 1:1 hexane-ether gave 1.14 g (84%) of 2,3-dihydro-8-propyl-7-[[(trifluoromethyl)sulfonyl]oxy]-4H-1-benzopyran-4-one as a yellow oil.

reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | 4 mmol, 0.824 g | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 6 mmol, 1.69 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | trifluoromethanesulfonic anhydride | 3 mmol, 0.5 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | HCl | 3N | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 2,3-dihydro-8-propyl-7-[[(trifluoromethyl)sulfonyl]oxy]-4H-1-benzopyran-4-one | 1.14 g, 84% | C(CC)C1=C(C=CC=2C(CCOC21)=O)OS(=O)(=O)C(F)(F)F | C13H13F3O5S
